US09290485B2
c) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamide
To a solution of tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate (151 mg, 0.29 mmol) in DCM (2 ml) was added TFA (0.447 ml, 5.80 mmol). Reaction mixture was stirred for 7.5 h at 23° C. After evaporation of solvents, the crude material was purified by preparative HPLC (SunFire C18-ODB, 5 μm, 100×30 mm, elution with A=water+0.1% TFA and B=ACN+0.1% TFA, gradient from 5% to 100% B in 25 min, flow: 40 mL/min). Fractions were combined, and the solvents were evaporated to afford the title cpd as a TFA salt, which was dissolved in hot methanol/ACN and eluted through a PL-HCO3 MP-resin column (Stratosphere SPE) in order to remove salt. The eluted solution was evaporated, and the residue was dried over a weekend under high vacuum (dessicator, 50° C.) to afford the title compound as a free base. 1H-NMR (DMSO-d6, 400 MHz) δ 8.40 (d, 1H), 8.38 (s, 1H), 8.03 (s, 1H), 8.02 (d, 1H), 7.94 (broad s, 2H), 7.65 (d, 1H), 7.24 (d, 1H), 6.11 (s, 1H), 5.63 (s, 2H), 5.61 (broad s, 2H), 4.28 (d, 2H), 2.29 (s, 3H), 2.16 (s, 3H); HPLC (Method G) Rt=1.476 min, MS (Method V) [M+H]+=422.3.

reactant | tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate | 0.29 mmol, 151 mg | ClC1=CC=C2C=CC(=NC2=C1)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C27H29ClN6O3
reactant | TFA | 5.80 mmol, 0.447 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=NC2=CC(=CC=C2C=C1)Cl)C | C22H21ClN6O
